US04979978
Preparation of 1-Chloro-2-methoxymethoxybenzene
2-Chlorophenol (96.4 g, 0.75 mol), dimethoxymethane (257.9 g, 3.39 mol) and 750 mg of p-toluenesulfonic acid were dissolved in 1.5 L of methylene chloride and the mixture heated at reflux with stirring under nitrogen for 72 hours in a flask equipped with a Soxhlet extraction apparatus containing 400 g of 3A molecular sieves. The mixture was allowed to cool and 3 ml of triethylamine was added. The mixture was then extracted with 2N sodium hydroxide and the organic phase was dried over magnesium sulfate. Evaporation of the volatiles under reduced pressure left 66.9 g of crude 1-chloro-2-methoxymethoxybenzene as a residue. This was distilled and the fraction boiling at 94° C. and 6.5 mm pressure was collected to obtain 51.3 g (40 percent of theory) of purified product. The proton nmr spectrum was consistent with the assigned structure.

reactant | 2-Chlorophenol | 0.75 mol, 96.4 g | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | dimethoxymethane | 3.39 mol, 257.9 g | COCOC | C3H8O2
reactant | p-toluenesulfonic acid | 750 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 1.5 L | C(Cl)Cl | CH2Cl2
product | 1-Chloro-2-methoxymethoxybenzene | ClC1=C(C=CC=C1)OCOC | C8H9ClO2
